US05684163
196 g of maleic acid arthydride were dissolved in 2.5 l of diisopropyl ether at room temperature. A solution of 270.4 g of 2-ethyl-6-methyl-aniline in 200 ml of diisopropyl ether was added dropwise at room temperature in the course of 4 hours, the resulting suspension was cooled to 15° to 20° C. and the solid was filtered off with suction and introduced into a mixture of 670 ml of acetic arthydride and 65 g of anhydrous sodium acetate. The suspension formed was heated to 100° C., while stirring, stirred at this temperature for 30 minutes, subsequently cooled to 30° C. and introduced into 1.3 l of ice-water. The precipitate was filtered off with suction, washed with ice-water and petroleum ether and dried. 321 g of N-(2-ethyl-6-methylphenyl)-maleimide (92.9% of theory) with a content of 97.8% by weight (determined by HPLC) and a melting point of 84.5° to 85° C. were obtained.

reactant | maleic acid | 196 g | C(\C=C/C(=O)O)(=O)O | C4H4O4
reactant | 2-ethyl-6-methyl-aniline | 270.4 g | C(C)C1=C(N)C(=CC=C1)C | C9H13N
solvent | diisopropyl ether | 2.5 l | C(C)(C)OC(C)C | C6H14O
solvent | diisopropyl ether | 200 ml | C(C)(C)OC(C)C | C6H14O
product | N-(2-ethyl-6-methylphenyl)-maleimide | 321 g, 92.9% | C(C)C1=C(C(=CC=C1)C)N1C(C=CC1=O)=O | C13H13NO2
